US07470713B2
5-(4-Bromo-phenyl)-2-(4-iodo-2-methoxy-pyridin-3-yl)-imidazol-1-ol:
(4-Bromo-phenyl)-oxo-acetaldehyde oxime (0.242 g, 1.06 mmol) was reacted as described for the synthesis of 4-ethyl-2-(4-iodo-2-methoxy-pyridin-3-yl)-5-phenyl-imidazol-1-ol and gave the title material (0.090 g, 18%). LCMS (+ESI, M+H+) m/z 472, 474.

reactant | (4-Bromo-phenyl)-oxo-acetaldehyde oxime | 1.06 mmol, 0.242 g | BrC1=CC=C(C=C1)C(C=NO)=O | C8H6BrNO2
reactant | 4-ethyl-2-(4-iodo-2-methoxy-pyridin-3-yl)-5-phenyl-imidazol-1-ol | C(C)C=1N=C(N(C1C1=CC=CC=C1)O)C=1C(=NC=CC1I)OC | C17H16IN3O2
product | 5-(4-Bromo-phenyl)-2-(4-iodo-2-methoxy-pyridin-3-yl)-imidazol-1-ol | 0.090 g, 18% | BrC1=CC=C(C=C1)C1=CN=C(N1O)C=1C(=NC=CC1I)OC | C15H11BrIN3O2
